US05324711
Preparation of methylallyl 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-α-methyl-1H-benzotriazole-1-acetate
A mixture of 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-α-methyl-1H-benzotriazole-1-acetic acid, thionyl chloride (0.8 ml, 0.011 mole), and 2 drops of dimethylformamide i methylene chloride is heated at reflux temperature for 2 hours, cooled and concentrated in vacuo to give a residue which is re-evaporated four times with toluene at 60°. The resultant residue is treated with 2-methylallyl alcohol and pyridine, shaken until reaction is complete by infrared spectral analysis and concentrated in vacuo to give a residue. The thus-obtained residue is dissolved in 1T acetonitrile in carbon tetrachloride and filtered through a pad of silica. The filtrate is concentrated in vacuo to give a solid residue. The solid residue is recrystallized from warm heptane to afford the title compound as a white solid, mp 71°-74° C., identified by elemental and NMR analyses.

reactant | 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-α-methyl-1H-benzotriazole-1-acetic acid | ClC1=C(C(=CC(=C1)OC=1C=CC2=C(N(N=N2)C(C(=O)O)C)C1)F)C(F)(F)F | C16H10ClF4N3O3
reactant | thionyl chloride | 0.011 mole, 0.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | methylallyl 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-α-methyl-1H-benzotriazole-1-acetate | ClC1=C(C(=CC(=C1)OC=1C=CC2=C(N(N=N2)C(C(=O)OCC=CC)C)C1)F)C(F)(F)F | C20H16ClF4N3O3
